US08937083B2
To a solution of 3-fluoro-5-(3-methyl-4-nitro-1H-pyrazol-1-yl)pyridine (3.133 g, 14.10 mmol) in ethanol (28.2 ml) was added ethyl acetate until all of the starting material went into solution. The solution was degassed and 10% palladium on carbon (0.750 g, 0.705 mmol) was added and the reaction was stirred in a parr hydrogenator at 40 psi for 3 hours. The solution was filtered through celite with ethyl acetate and the solvent was removed under reduced pressure. The residue was dissolved in tetrahydrofuran (32.0 ml) and water (9.61 ml). Di-tert-butyl dicarbonate (2.52 g, 11.55 mmol) was added followed by saturated aqueous sodium bicarbonate (9.54 ml, 11.45 mmol). The reaction was stirred at room temperature overnight, diluted with water and extracted with ethyl acetate. The combined organic phases were concentrated and chromatographed (0-100% ethyl acetate/hexanes) to give tert-butyl 1-(5-fluoropyridin-3-yl)-3-methyl-1H-pyrazol-4-ylcarbamate (1.673 g, 5.72 mmol, 41.0%) as a yellow solid and the tert-butyl 5-ethoxy-1-(5-fluoropyridin-3-yl)-3-methyl-1H-pyrazol-4-ylcarbamate (0.250 g, 0.74 mmol, 5.2%) as a brown oil:

reactant | 3-fluoro-5-(3-methyl-4-nitro-1H-pyrazol-1-yl)pyridine | 14.10 mmol, 3.133 g | FC=1C=NC=C(C1)N1N=C(C(=C1)[N+](=O)[O-])C | C9H7FN4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | Di-tert-butyl dicarbonate | 11.55 mmol, 2.52 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 11.45 mmol, 9.54 ml | C([O-])(O)=O.[Na+]
solvent | ethanol | 28.2 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.705 mmol, 0.750 g | [Pd] | Pd
solvent | water | O | H2O
product | tert-butyl 1-(5-fluoropyridin-3-yl)-3-methyl-1H-pyrazol-4-ylcarbamate | 5.72 mmol, 1.673 g, 41.0% | FC=1C=C(C=NC1)N1N=C(C(=C1)NC(OC(C)(C)C)=O)C | C14H17FN4O2
